### PR TITLE
[Merged by Bors] - feat(Cyclotomic): compute the torsion order of a cyclotomic field 

### PR DESCRIPTION
**Pull request by xroblot**
The order of the torsion group of the `n`-th cyclotomic field is `n` if `n` is even and `2n` if `n` is odd.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Nat/Totient.lean [hunk 1]
```diff
@@ -374,6 +374,43 @@ theorem totient_mul_of_prime_of_not_dvd {p n : ℕ} (hp : p.Prime) (h : ¬p ∣
...
+    rw [← mul_assoc, mul_comm a] at h'
+    exact h'.not_lt this
+  rw [mul_comm p]
+  refine lt_of_lt_of_le ?_ (Nat.le_of_dvd ?_ (totient_dvd_of_dvd ⟨d, rfl⟩))
+  · rw [mul_comm, totient_mul_of_prime_of_dvd hp hap, Nat.lt_mul_iff_one_lt_left]
+    · exact hp.one_lt
+    · exact totient_pos.mpr <| pos_of_ne_zero ha
+  · exact totient_pos.mpr <| zero_lt_of_ne_zero (by rwa [mul_assoc])
+
+theorem eq_of_totient_eq_totient {a b : ℕ} (h : a ∣ b) (ha : Even a)
```
Comment (riccardobrasca) [inline Mathlib/Data/Nat/Totient.lean]:
```suggestion
theorem _root_.Even.eq_of_totient_eq_totient {a b : ℕ} (h : a ∣ b) (ha : Even a)
```

File: Mathlib/Data/Nat/Totient.lean [hunk 2]
```diff
@@ -374,6 +374,43 @@ theorem totient_mul_of_prime_of_not_dvd {p n : ℕ} (hp : p.Prime) (h : ¬p ∣
...
+    (h' : a.totient = b.totient) : a = b := by
+  by_cases ha' : a = 0
+  · rw [ha', totient_zero, eq_comm, totient_eq_zero] at h'
+    rw [h', ha']
+  refine (eq_or_eq_of_totient_eq_totient h h').resolve_right fun h ↦ ?_
+  rw [← h, totient_mul_of_prime_of_dvd (prime_two) (even_iff_two_dvd.mp ha), eq_comm,
+    mul_eq_right (totient_eq_zero.not.mpr ha')] at h'
+  cutsat
```
Comment (riccardobrasca) [inline Mathlib/Data/Nat/Totient.lean]:
```suggestion
  lia
```
`cutsat` changed name.

File: Mathlib/NumberTheory/NumberField/Cyclotomic/Basic.lean [hunk 3]
```diff
@@ -890,3 +890,61 @@ end IsPrimitiveRoot
...
 
 end PowerBasis
+
+section NumberField
+
+open Units
+
+theorem NumberField.Units.dvd_torsionOrder_of_isPrimitiveRoot [NeZero n] [NumberField K] {ζ : K}
+    (hζ : IsPrimitiveRoot ζ n) :
+    n ∣ torsionOrder K := by
```
Comment (riccardobrasca) [inline Mathlib/NumberTheory/NumberField/Cyclotomic/Basic.lean]:
```suggestion
    (hζ : IsPrimitiveRoot ζ n) :  n ∣ torsionOrder K := by
```

File: Mathlib/NumberTheory/NumberField/Cyclotomic/Basic.lean [hunk 4]
```diff
@@ -890,3 +890,61 @@ end IsPrimitiveRoot
...
+  have hζ := hK.zeta_spec
+  -- We first prove that `K` contains a primitive root of order `torsionOrder K`
+  obtain ⟨μ, hμ⟩ : ∃ μ : torsion K, orderOf μ = torsionOrder K := by
+    rw [torsionOrder, Fintype.card_eq_nat_card]
+    exact IsCyclic.exists_ofOrder_eq_natCard
+  rw [← IsPrimitiveRoot.iff_orderOf, ← IsPrimitiveRoot.coe_submonoidClass_iff,
+    ← IsPrimitiveRoot.coe_units_iff] at hμ
+  replace hμ := hμ.map_of_injective (FaithfulSMul.algebraMap_injective (𝓞 K) K)
+  -- Thus, `K` contains a primitive root of order `l = lcm (n, torsionOrder K)`.
+  have h := IsPrimitiveRoot.pow_mul_pow_lcm hζ hμ (NeZero.ne _) (torsionOrder_ne_zero K)
```
Comment (riccardobrasca) [inline Mathlib/NumberTheory/NumberField/Cyclotomic/Basic.lean]:
```suggestion
  have h := hζ.pow_mul_pow_lcm hμ (NeZero.ne _) (torsionOrder_ne_zero K)
```

**Review by riccardobrasca — APPROVED** [review]
Thanks!

bors d+

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
